US08497278B2
4,6-Difluoro-N-((6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2-amine (182)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridine hydrochloride and 4,6-difluoropyrimidin-2-amine. (0.35 g, 39% yield). M/e+ 374.2 for C18H11F4N5 (M+H)+.

reactant | 3-(chloromethyl)-6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)F)C2=CC=C(C=C2)F
reactant | 4,6-difluoropyrimidin-2-amine | FC1=NC(=NC(=C1)F)N | C4H3F2N3
product | 4,6-Difluoro-N-((6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2-amine | 39% yield | FC1=NC(=NC(=C1)F)NCC1=C(N=C2N1C=C(C=C2)F)C2=CC=C(C=C2)F | C18H11F4N5
